US06251912B1
2-Morpholin4-ylmethyl-acrylic acid
In a manner described by Krawczyk [Henryk Krawczyk, Synthetic Communications, 25 641-650, (1995)] an 8.8 mL (8.8 g; 0.1 mole) portion of morpholine was added to 6.6 g (0.22 eq) of paraformaldehyde and 10.4 g (0.1 mole) of malonic acid in 100 mL of dioxane. After heating in an oil bath at 70 deg for 1 {fraction (1/12)} hours, the solvents were removed in vacuo. The residue was dissolved in acetone, some insoluble material being filtered. The filtrate was taken to an oil in vacuo. This oil was chromatographed on silica gel. Elution of the product with 1:19 methanol methylene chloride gave 5.51 g (32%) of the product, which melted at 121-125° C.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | paraformaldehyde | 6.6 g, 0.22 eq | C=O | CH2O
reactant | malonic acid | 0.1 mole, 10.4 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-Morpholin4-ylmethyl-acrylic acid | 5.51 g, 32% | N1(CCOCC1)CC(C(=O)O)=C | C8H13NO3
